US08236826B2
Production of 4-{4-[4-(3,4-dichlorobenzoylamino)-2-fluorophenoxy]phenyl}-4-oxobutyric acid
To a suspension consisting of 3,4-dichloro-3′-fluoro-4′-phenoxybenzanilide (5.05 g, 13.4 mmol) and succinic anhydride (1.48 g, 14.8 mmol) in 1,2-dichloroethane (25 mL) was added aluminum chloride (6.26 g, 47.0 mmol) under ice cooling, and the resulting mixture was stirred at the same temperature for 5 minutes, and then at room temperature for 1.5 hours. The resulting reaction solution was poured into ice water, and the resulting solid was collected by filtration. To the solid was added 50% aqueous acetone (200 mL), and the resulting solution was refluxed for 0.5 hours, then cooled. The obtained solid was collected by filtration, to thereby yield 6.30 g of the title compound.

reactant | 3,4-dichloro-3′-fluoro-4′-phenoxybenzanilide | 13.4 mmol, 5.05 g | ClC=1C=C(C(=O)NC2=CC(=C(C=C2)OC2=CC=CC=C2)F)C=CC1Cl | C19H12Cl2FNO2
reactant | succinic anhydride | 14.8 mmol, 1.48 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminum chloride | 47.0 mmol, 6.26 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 25 mL | ClCCCl | C2H4Cl2
product | 4-{4-[4-(3,4-dichlorobenzoylamino)-2-fluorophenoxy]phenyl}-4-oxobutyric acid | ClC=1C=C(C(=O)NC2=CC(=C(OC3=CC=C(C=C3)C(CCC(=O)O)=O)C=C2)F)C=CC1Cl | C23H16Cl2FNO5
